US09303000B2
Synthesis of (Z)-2-(2-(3-(2-chloro-6-isopropoxypyridin-4-yl)-1H-1,2,4-triazol-1-yl)vinyl)-1,3,4-oxadiazole (I-31)
In a 100 mL, 3-neck round-bottomed flask equipped with nitrogen inlet, and a rubber septum, (Z)-3-(3-(2-chloro-6-isopropoxypyridin-4-yl)-1H-1,2,4-triazol-1-yl)acrylohydrazide (1.11 gm, 1.0 eq.) was dissolved in THF (17 mL, 15V). Trimethylorthoformate (0.364 g, 1.1 eq.) was added followed by methane sulphonic acid (0.178 g, 0.5 eq.). The Reaction mixture was refluxed at 70° C. for 2 h. The progress of the reaction was followed by TLC analysis on silica gel with 10% MeOH-dichloromethane as mobile phase. Reaction mixture was poured in to ice water (500 mL) and extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine solution (3×15 mL), dried over NaSO4, filtered, and concentrated by rotary evaporation (25° C., 20 mmHg) to afford 1 g of Crude compound. The crude reaction mixture was purified by column chromatography using silica 60/120 using ethyl acetate:hexane as mobile phase. The column (5×10 cm) was packed in hexane and started eluting in ethyl acetate in gradient manner starting with fraction collection (25 mL fraction each) from 35-40% ethyl acetate in hexane. Compound started eluting with 35% ethylacetate in hexane. Fraction containing such TLC profile was collected together to obtain pure compound (26 mg), Yield: 0.026 g (2.6%), 1H NMR: (400 MHz, DMSO) δ =10.25 (s, 1H), 8.50 (s, 1H), 7.608-7.610 (d, 1H), 7.524-7.496 (s, J=11.2, 1H), 6.359-6.360 (d, 1H), 6.316-7.288 (s, J=11.2, 1H), 5.385-5.323 (m, 1H), 1.42-1.38 (s, 6H). LC-MS: Calculated for C15H14ClN5O2(M+H)+332.75 Found: 332.8 at 3.354 min (93.31%).

reactant | (Z)-3-(3-(2-chloro-6-isopropoxypyridin-4-yl)-1H-1,2,4-triazol-1-yl)acrylohydrazide | 1.11 gm, 1.0 eq. | ClC1=NC(=CC(=C1)C1=NN(C=N1)\C=C/C(=O)NN)OC(C)C | C13H15ClN6O2
reactant | Trimethylorthoformate | 0.364 g, 1.1 eq. | COC(OC)OC | C4H10O3
reactant | methane sulphonic acid | 0.178 g, 0.5 eq. | CS(=O)(=O)O | CH4O3S
reactant | MeOH dichloromethane | CO.ClCCl
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | (Z)-2-(2-(3-(2-chloro-6-isopropoxypyridin-4-yl)-1H-1,2,4-triazol-1-yl)vinyl)-1,3,4-oxadiazole | 26 mg | ClC1=NC(=CC(=C1)C1=NN(C=N1)\C=C/C=1OC=NN1)OC(C)C | C14H13ClN6O2
